US06211215B1
In substantially the same manner as in Working Example 72, 1-[4-(4-hydroxyphenyl)butyl]imidazole was allowed to react with 4-chloromethyl-2-(5-methyl-2-furyl)oxazole to give 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(5-methyl-2-furyl)oxazole. The yield was 99%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 91-92° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 4-chloromethyl-2-(5-methyl-2-furyl)oxazole | ClCC=1N=C(OC1)C=1OC(=CC1)C | C9H8ClNO2
product | 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(5-methyl-2-furyl)oxazole | yield was 99% | N1(C=NC=C1)CCCCC1=CC=C(OCC=2N=C(OC2)C=2OC(=CC2)C)C=C1 | C22H23N3O3
